US06593314B1
(1R,2R,6R,8S)-8-hydroxy-4,4-dimethyl-3,5,10-trioxatricyclo[6.2.1.02,6]undecan-9-one
A solution of quinic acid (10.0 g, 52.0 mmol), para-toluenesulfonic acid monohydrate (100 mg, 0.526 mmol) and 2,2-dimethoxypropane (20 mL, 162.9 mmol) in acetone (150 mL) was refluxed for 4 hours. The reaction mixture was concentrated, and the concentrate was dissolved in ethyl acetate (150 mL). The ethyl acetate layer was washed with saturated sodium bicarbonate and brine, dried (MgSO4), filtered and concentrated. The concentrate was stored at 0° C. for several hours to afford 9.6 g (86%) of the desired product as white crystals.

reactant | quinic acid | 52.0 mmol, 10.0 g | C1[C@@](C[C@H]([C@@H]([C@@H]1O)O)O)(O)C(=O)O | C7H12O6
reactant | 2,2-dimethoxypropane | 162.9 mmol, 20 mL | COC(C)(C)OC | C5H12O2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
catalyst | para-toluenesulfonic acid monohydrate | 0.526 mmol, 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (1R,2R,6R,8S)-8-hydroxy-4,4-dimethyl-3,5,10-trioxatricyclo[6.2.1.02,6]undecan-9-one | 9.6 g, 86% | O[C@]12C[C@H]3OC(O[C@H]3[C@H](OC1=O)C2)(C)C | C10H14O5
